US08710000B2
Step 3: 17-Aminoheptadecanoic acid tert-butyl ester
Acetonitrile (10 mL) was added to octadecanedioic acid mono-tert-butyl ester (500 mg, 1.3 mmol) and TEA (0.226 mL, 1.6 mmol) was added. Diphenylphosphonic azide (0.37 g, 1.3 mmol) was added in a solution of acetonitrile (1 mL). The mixture was stirred at reflux for 2 h, and at RT for 16 h. The reaction was concentrated under vacuum, and suspended/dissolved in 1:2, AcOEt:heptane (2 mL) and applied to a dry bed of silica (2×4 cm dia). It was eluated with 1:2 AcOEt:heptane (2 mL) and 1:1 AcOEt:heptane (60 mL). The eluate was concentrated to dryness. The residue was partly suspended in THF (2 mL) and 1 N NaOH (2 mL) was added. The turbid solution/suspension was stirred for 1 h at RT. Water (15 mL) was added and this was extracted with AcOEt (2×25 mL), adding some brine to aid separation. The organic phase was washed with sat. NaCl, dried, filtered and conc. to dryness. To the residue was added 20% acetonitrile/water (15 mL), TFA (15-20 ul) and DMSO (1 mL). A filtration of the mixture failed, so the filter and the solution were extracted with DCM (2×60 mL). The organic extracts were concentrated to yield the crude product (0.14 g),

reactant | octadecanedioic acid mono-tert-butyl ester | 1.3 mmol, 500 mg | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCC(=O)O)=O | C22H42O4
reactant | Diphenylphosphonic azide | 1.3 mmol, 0.37 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | 17-Aminoheptadecanoic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCN)=O | C21H43NO2
